US07259183B2
303 mg (3 mmol) of triethyl amine were added at 0° C. under nitrogen to 386 mg (2 mmol) of 2-(3-trifluoromethylphenyl)ethyl amine dissolved in 15 ml DCM. Then a solution of 525 mg (2.5 mmol) of trifluoro acetic acid anhydride in 5 ml DCM was added dropwise within 5 min. The reaction mixture was stirred at 0° C. for 30 min than for 3 h at rt. The solution was diluted with DCM, washed twice with water, dried over sodium sulfate, filtered and the solvent was evaporated to yield 620 mg (98%) of 2,2,2-trifluoro-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-acetamide as the product contaminated with 10% diacetylated byproduct as a light yellow solid. 1H NMR (DMSO-d6, 300 MHz): δ 9.48 (br m, 1H), 7.68-7.43 (m, 4H), 3.46 (q, 2H), 2.91 (t, 2H).

reactant | triethyl amine | 3 mmol, 303 mg | C(C)N(CC)CC | C6H15N
reactant | 2-(3-trifluoromethylphenyl)ethyl amine | 2 mmol, 386 mg | FC(C=1C=C(C=CC1)CCN)(F)F | C9H10F3N
reactant | trifluoro acetic acid anhydride | 2.5 mmol, 525 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 2,2,2-trifluoro-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-acetamide | 620 mg, 98% | FC(C(=O)NCCC1=CC(=CC=C1)C(F)(F)F)(F)F | C11H9F6NO
